US04171369
A solution of 35 g of 2,5-dimethylbenzophenone and 31.5 g of N-benzylmaleimide in 500 cc of acetone or methylene chloride is irradiated with a mercury high pressure lamp through a pyrex filter, until all the material has reacted (20 to 130 hours), filtration and concentration by evaporation are then effected. After crystallization from ether, the residue yields 35 g of 2-benzyl-3a,4,9,9a-tetrahydro-6-methyl-4-phenyl-benz[f]isoindolin-4-ol-1,3-dione, having a M.P. of 162-164°, which are dissolved in 170 cc of trifluoroacetic acid. The solution is stirred at 25° for 3 hours and concentrated by evaporation. After crystallization from methylene chloride/methanol, the residue yields 30 g of (9aRS)-2-benzyl-9,9a-dihydro-6-methyl-4-phenyl-benz[f]isoindoline-1,3-dione, having a M.P. of 156°-158°.

reactant | 2,5-dimethylbenzophenone | 35 g | CC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C | C15H14O
reactant | N-benzylmaleimide | 31.5 g | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
solvent | acetone | 500 cc | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-benzyl-3a,4,9,9a-tetrahydro-6-methyl-4-phenyl-benz[f]isoindolin-4-ol-1,3-dione | 35 g | C(C1=CC=CC=C1)N1C(C2C(C3=C(CC2C1=O)C=CC(=C3)C)(O)C3=CC=CC=C3)=O | C26H23NO3
